US05089507
1-(3,4-dichlorophenylacetyl)-2-(pyrrolidin-1-yl)methyl-4-methyl piperidine hydrochloride hemihydrate diastereoisomer A
g 1.4 (0.0077 moles) of 4-methyl-2-(1-pyrrolidinyl)methyl piperidine were reacted with g 2.1 (0.0093 moles) of 3,4-dichlorophenylacetyl chloride as described in Example 1. The oily residue so obtained (g 3.1) was chromatographed on 60 g of silica gel, eluting with CH2Cl2 containing increasing amounts of methanol (0.5 to 1.5%).

reactant | 4-methyl-2-(1-pyrrolidinyl)methyl piperidine | CC1CC(NCC1)CN1CCCC1 | C11H22N2
reactant | 3,4-dichlorophenylacetyl chloride | ClC=1C=C(C=CC1Cl)CC(=O)Cl | C8H5Cl3O
product | 1-(3,4-dichlorophenylacetyl)-2-(pyrrolidin-1-yl)methyl-4-methyl piperidine hydrochloride hemihydrate | O.Cl.ClC=1C=C(C=CC1Cl)CC(=O)N1C(CC(CC1)C)CN1CCCC1.ClC=1C=C(C=CC1Cl)CC(=O)N1C(CC(CC1)C)CN1CCCC1.Cl | InChI=1S/2C19H26Cl2N2O.2ClH.H2O/c2*1-14-6-9-23(16(10-14)13-22-7-2-3-8-22)19(24)12-15-4-5-17(20)18(21)11-15;;;/h2*4-5,11,14,16H,2-3,6-10,12-13H2,1H3;2*1H;1H2
